US08937150B2
di-tert-butyl (2S,2′S)-2,2′-{[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate (ACD Name v12)
To a solution of di-tert-butyl (2S,2′S)-2,2′-{[(1S,4S)-1,4-dihydroxybutane-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate (100 mg, 0.10 mmol) in CH2Cl2 (1 mL) at −20° C. was added triethylamine (0.044 mL, 0.31 mmol) followed by mesyl chloride (0.018 mL, 0.23 mmol) and the solution stirred at −20° C. for 1 hour. 4-tert-Butyl aniline (0.083 mL, 0.52 mmol) was added in one portion, and the solution was allowed to warm to room temperature overnight, with stirring. The solution was diluted with EtOAc, washed with 1N HCl, H2O, and brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography (0-50% EtOAc/hexane) gave the title compound (46 mg, 0.04 mmol, 41%).

reactant | di-tert-butyl (2S,2′S)-2,2′-{[(1S,4S)-1,4-dihydroxybutane-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate | 0.10 mmol, 100 mg | O[C@@H](CC[C@H](O)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C48H74F2N6O8Si2
reactant | triethylamine | 0.31 mmol, 0.044 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.23 mmol, 0.018 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-tert-Butyl aniline | 0.52 mmol, 0.083 mL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | di-tert-butyl (2S,2′S)-2,2′-{[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate | 0.04 mmol, 46 mg, 41% | C(C)(C)(C)C1=CC=C(C=C1)N1[C@H](CC[C@@H]1C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C58H85F2N7O6Si2
